US04931568
3-n-Hexyloxythiophene
20 cm3 of 3-methoxythiophene (0.2 mol) and 50 cm3 of 1-hexanol were dissolved in 30 cm3 of toluene, and 1 g of NaHSO4 (0.01 mol) was added. The mixture was heated to 125° C. and stirred, and about 10 cm3 of a mixture of methanol and toluene were distilled off through a Vigreux column at a head temperature of 63° to 64° C., which took about 3 hours. The mixture was then washed three times with 50 cm3 of saturated NaHCO3 solution until neutral, dried over MgSO4 and fractionated in vacuo. After the toluene had been distilled off together with excess haxanol, 34 g of 3-n-hexyloxythiophene distilled over at 70° C. and 0.13 mbar, which corresponds to 92% of the theoretical yield. 97% pure by GC; 1H-NMR and mass spectrum confirm the structure.

reactant | 3-methoxythiophene | 0.2 mol, 20 cm3 | COC1=CSC=C1 | C5H6OS
reactant | 1-hexanol | 50 cm3 | C(CCCCC)O | C6H14O
reactant | NaHSO4 | 0.01 mol, 1 g | OS(=O)(=O)[O-].[Na+]
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-n-Hexyloxythiophene | C(CCCCC)OC1=CSC=C1 | C10H16OS
